US04477553
(2,5-Dimethylresorcinol-formaldehyde resin)
To a solution of 691 g. of 2,5-dimethylresorcinol in 1 l. of ethanol were added 348 g. of a 37% aqueous solution of formaldehyde and 0.5 ml. of 35% conc. hydrochloric acid as a catalyst. The resulting mixture was heated in the same manner as in the Synthesis example 1 and poured into 5 l. of a cold water to give a pale brown powdery resin.

reactant | 2,5-dimethylresorcinol | CC1=C(O)C=C(C=C1O)C | C8H10O2
reactant | ethanol | C(C)O | C2H6O
reactant | formaldehyde | C=O | CH2O
catalyst | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2,5-Dimethylresorcinol-formaldehyde | CC1(C(O)C=C(C=C1O)C)C=O | C9H12O3
